US07342115B2
Sodium hydride (60% in mineral oil, 12 mg, 0.3 mmol) is added to a solution of cyclohexyl-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-methanol (74 mg, 0.2 mmol) in DMF (0.5 mL) at room temperature. The resulting mixture is stirred for 30 minutes. Iodoethane (31 mg, 0.2 mmol) is then added and the mixture is stirred for an additional 1 hour. Water (1 mL) is added to the above mixture and the aqueous layer is extracted with ethyl acetate (2×2 mL). The combined organic layers are dried and concentrated in vacuo. The crude product is purified with PTLC (hexanes/ethyl acetate 6:1) to give 5-(cyclohexyl-ethoxy-methyl)-2-(2,6-diethyl-phenyl)-4-ethoxy-pyridine. 1H NMR: (CDCl3) 8.50 (s, 1H), 7.28 (t, 1H), 7.12 (d, 2H), 6.70 (S, 1H), 4.45 (d, 1H), 4.03 (q, 2H), 3.34 (m, 2H), 2.34 (m, 4H), 2.02 (br, 1H), 1.73 (m, 4H), 1.21 (m, 4H), 1.05 (m, 13H).

reactant | Sodium hydride | 0.3 mmol, 12 mg | [H-].[Na+]
reactant | cyclohexyl-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-methanol | 0.2 mmol, 74 mg | C1(CCCCC1)C(O)C=1C=NC(=CC1OCC)C1=C(C=CC=C1CC)CC | C24H33NO2
reactant | Iodoethane | 0.2 mmol, 31 mg | ICC | C2H5I
reactant | Water | 1 mL | O | H2O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-(cyclohexyl-ethoxy-methyl)-2-(2,6-diethyl-phenyl)-4-ethoxy-pyridine | C1(CCCCC1)C(C=1C(=CC(=NC1)C1=C(C=CC=C1CC)CC)OCC)OCC | C26H37NO2
